US07319104B2
2-Chloro-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}-1,1-dimethylethyl)phenol
To a solution 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}-1,1-dimethylethyl)phenol (300 mg; 0.67 mmol) in ethyl ether (0.1M) was added sulfuryl chloride (0.060 ml; 0.74 mmol). After 10 minutes an additional 0.3 eq of sulfuryl chloride were added. Stirred 20 more minutes. Partitioned between ethyl acetate and dilute sodium bicarbonate solution. Organic phase was washed with saturated brine, dried over sodium sulfate and concentrated. Purification by radial chromatography on silica gel using a dichloromethane-hexane gradient (30–90%) provided the title compound (80 mg; 25% yield).

reactant | 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}-1,1-dimethylethyl)phenol | 0.67 mmol, 300 mg | C(C)C=1C=NC(=NC1)N(CC(C)(C)C1=CC=C(C=C1)O)CC1=CC=C(C=C1)OC(F)(F)F | C24H26F3N3O2
reactant | sulfuryl chloride | 0.74 mmol, 0.060 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.3 eq | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl ether | 0.1M | C(C)OCC | C4H10O
product | 2-Chloro-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}-1,1-dimethylethyl)phenol | 80 mg, 25% yield | ClC1=C(C=CC(=C1)C(CN(CC1=CC=C(C=C1)OC(F)(F)F)C1=NC=C(C=N1)CC)(C)C)O | C24H25ClF3N3O2
